US05721234
Preparation of 4-(2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxalin-8-ylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of N-Boc-piperidine-4-carboxylic acid (0.23 g, 1 mmol) and 1,1'-carbonyldiimidazole (0.16 g, 1 mmol) in tetrahydrofuran (5 mL) was heated at 80° C. for 15 min. After cooling, it was added to a solution of 8-amino-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione hydrochloride (0.11 g, 0.5 mmol) and the mixture was heated at 70° C. for 2 days. After filtration to remove precipitate, the filtrate was evaporated and the residue suspended in water. The resulting solid was collected by filtration, washed with diethyl and dried in vacuo (0.15 g, 70% yield).

reactant | N-Boc-piperidine-4-carboxylic acid | 1 mmol, 0.23 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 1,1'-carbonyldiimidazole | 1 mmol, 0.16 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 8-amino-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione hydrochloride | 0.5 mmol, 0.11 g | Cl.NC1CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxalin-8-ylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 70% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1)=O | C22H28N4O5
